US05254595
Following the procedure of Example 27, but starting from 1-(1-phenyltetrazol-5-yloxy)-2,3-epoxypropane (4.37 g) prepared as described in BE 866,278 and 2-aminotetralin (1.48 g) in absolute ethanol (60 ml), N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(1-phenyltetrazol-5-yloxy)propanamine hydrochloride is obtained ((i): R=H, Ar=radical 60, wherein Z=Z'=H and the chain is attached to position 2 of the tetralin moiety).

reactant | 1-(1-phenyltetrazol-5-yloxy)-2,3-epoxypropane | 4.37 g | C1(=CC=CC=C1)N1N=NN=C1OCC1CO1 | C10H10N4O2
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(1-phenyltetrazol-5-yloxy)propanamine hydrochloride | Cl.C1C(CCC2=CC=CC=C12)NCC(COC1=NN=NN1C1=CC=CC=C1)O
product | 2-aminotetralin | 1.48 g | NC1CC2=CC=CC=C2CC1 | C10H13N
